US05965490
A solution of 65.3 g (318 mmol) of 3-(4,4-dimethyloxazolin-2-yl)anisole in 400 mL of dry tetrahydrofuran was cooled to -70° C. and then 165.5 mL (414 mmol) of 2.5 M butyl lithium was added with cooling and stirring. The burgundy solution was warmed to -40° C. with stirring for 90 min. It was then cooled to -70° C. and a solution of 62.2 g (414 mmol) of dipropyl disulfide in 100 mL of dry tetrahydrofuran was added dropwise with stirring and cooling. The resulting mixture was allowed to warm to ambient temperature over a 90-min period and the pink, milky suspension obtained was neutralized with 300 mL of saturated aqueous ammonium chloride. The phases were separated and the organic phase was dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure. The residual gold oil was fractionally distilled at 0.6 mm Hg (80 Pascals) in a 2×10 cm (centimeter) Vigreux column to obtain 76.0 g (86 percent of theory) of 2-propylthio-3-(4,4-dimethyloxazolin-2-yl)anisole as a light yellow oil boiling at 155-157° C. (0.6 mm Hg).

reactant | 3-(4,4-dimethyloxazolin-2-yl)anisole | 318 mmol, 65.3 g | CC1(N=C(OC1)C=1C=C(C=CC1)OC)C | C12H15NO2
reactant | butyl lithium | 414 mmol, 2.5 M, 165.5 mL | C(CCC)[Li]
reactant | dipropyl disulfide | 414 mmol, 62.2 g | C(CC)SSCCC | C6H14S2
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-propylthio-3-(4,4-dimethyloxazolin-2-yl)anisole | 76.0 g, 86 percent | C(CC)SC1=C(C=CC=C1C=1OCC(N1)(C)C)OC | C15H21NO2S
